US07465726B2
3-(4-Methylpiperazin-1-yl)-phenylamine
Into the solution of 1-methyl-4-(3-nitrophenyl)-piperazine (123 mg, 0.556 mmol) in ethanol (5 mL) was added Pd (10% on carbon, 12.0 mg). The mixture was degassed for 5 min and was then was stirred under H2 atmosphere (balloon pressure) at rt for 24 h. After that time, the reaction mixture was filtered and the filtrate was concentrated in vacuo to obtain the title compound as light yellow oil. 1H NMR (CDCl3, 400 MHz): δ=2.35 (s, 3H), 2.56 (t, 41H, J=5.2 Hz), 3.18 (t, 41H, J=5.0 Hz), 3.60 (brs, 2H), 6.21-6.23 (m, 1H), 6.27 (t, 1H, J=2.2 Hz), 6.36-6.39 (m, 1H), 7.05 (m, 1H). MS (ES+): m/z 192.31 (100) [MH+]. HPLC: tR=0.39 min (ZQ2000, polar—5 min).

reactant | 1-methyl-4-(3-nitrophenyl)-piperazine | 0.556 mmol, 123 mg | CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd | 12.0 mg | [Pd] | Pd
product | 3-(4-Methylpiperazin-1-yl)-phenylamine | CN1CCN(CC1)C=1C=C(C=CC1)N | C11H17N3
